US07605277B2
Synthesis of N,N′-diacetyl-N,N′-diphenyl-2,6-diaminodibenzodioxin
A slurry prepared from 34.3 g (0.115 mole) of N,N′-diacetyl-2,6-diaminodibenzodioxin, 96.4 g (0.576 mole) of iodobenzene, 48.2 g (0.253 mole) of copper (I) iodide, 63.6 g (0.460 mole) of potassium carbonate, and 1500 ml of quinoline was heated with stirring at 170° C. for 48 hours. The slurry was cooled to room temperature, 500 ml of methylene chloride and 500 ml of water were added, and a precipitate was filtered off. To the filtrate was added 500 ml of water and the organic layer was separated from the aqueous layer. The organic layer was concentrated and dried under reduced pressure to give 79.4 g of a crude product. The product was used without purification in the next reaction.

reactant | N,N′-diacetyl-2,6-diaminodibenzodioxin | 0.115 mole, 34.3 g | C(C)(=O)NC1=CC2=C(OC3=C(O2)C=CC=C3NC(C)=O)C=C1 | C16H14N2O4
reactant | iodobenzene | 0.576 mole, 96.4 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 0.460 mole, 63.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | quinoline | 1500 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper (I) iodide | 0.253 mole, 48.2 g | [Cu]I
solvent | water | 500 ml | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N,N′-diacetyl-N,N′-diphenyl-2,6-diaminodibenzodioxin | 79.4 g | C(C)(=O)N(C1=CC2=C(OC3=C(O2)C=CC=C3N(C3=CC=CC=C3)C(C)=O)C=C1)C1=CC=CC=C1 | C28H22N2O4
